US07709645B2
To a solution of 2-tert-Butoxycarbonylamino-5-[3-(1H-indol-7-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid (308 mg, 0.66 mmol) in dichloromethane (9 mL) was added trifluoroacetic acid. The resulting solution was stirred for 2 hours at room temperature. The solution was concentrated to give the crude 2-amino-5-[3-(1H-indol-7-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid which was used in next step without further purification. MS: m/z 369 (M+H+).

reactant | 2-tert-Butoxycarbonylamino-5-[3-(1H-indol-7-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid | 0.66 mmol, 308 mg | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=C(C=C1)C=1C=C2C(=NC1)NC=C2C=2C=CC=C1C=CNC21 | C27H24N4O4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
product | 2-amino-5-[3-(1H-indol-7-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl]-benzoic acid | NC1=C(C(=O)O)C=C(C=C1)C=1C=C2C(=NC1)NC=C2C=2C=CC=C1C=CNC21 | C22H16N4O2
